US04180679
The process for preparing the compound according to claim 1 which comprises: reacting a mixture of concentrated nitric acid and sulfuric acid with 4-chloro-o-toluic acid at a temperature from about 40° C. to about 60° C., reducing resultant 4-chloro-3,5-dinitro-o-toluic acid with diborane, treating resultant 4-chloro-3,5-dinitro-benzyl alcohol with phosphorus tribromide to obtain α'-bromo-4-chloro-3,5-dinitro-o-xylene, reacting the latter with an aliphatic alcohol, and recovering the resultant desired compound.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-chloro-o-toluic acid | ClC=1C=C(C(=CC1)C)C(=O)O | C8H7ClO2
reactant | 4-chloro-3,5-dinitro-o-toluic acid | ClC=1C(=C(C(=CC1[N+](=O)[O-])C)C(=O)O)[N+](=O)[O-] | C8H5ClN2O6
reactant | diborane | B#B | B2
reactant | 4-chloro-3,5-dinitro-benzyl alcohol | ClC1=C(C=C(CO)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H5ClN2O5
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | α'-bromo-4-chloro-3,5-dinitro-o-xylene | BrCC=1C(=CC(=C(C1[N+](=O)[O-])Cl)[N+](=O)[O-])C | C8H6BrClN2O4
